US05302727
A solution of 3.40 g (0.0129 mol) of 1-(3,4-dimethoxyphenyl)-N-methyl-1-cyclohexanemethanamine in 50 ml of abs. dimethylformamide was treated with 3.57 g (0.0258 mol) of anhydrous potassium carbonate. The mixture was stirred at 5° and treated with 1.4 ml (0.0129 mol) of 1-bromo-3-chloropropane and subsequently stirred initially at 30° for 4 hours and thereafter at room temperature for 16 hours. The solvent was then evaporated at room temperature under reduced pressure and the residue was treated with water. The mixture was extracted three times with ether and the organic extracts were dried over magnesium sulphate, filtered and evaporated under reduced pressure. The oily residue was distilled under a pressure of 300 Pa at 195°, whereby there was obtained N-(3-chloropropyl)-1-(3,4-dimethoxyphenyl)-N-methylcyclohexanemethanamine as a colourless viscous oil which was used directly in the next step.

reactant | 1-(3,4-dimethoxyphenyl)-N-methyl-1-cyclohexanemethanamine | 0.0129 mol, 3.40 g | COC=1C=C(C=CC1OC)C1(CCCCC1)CNC | C16H25NO2
reactant | potassium carbonate | 0.0258 mol, 3.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.0129 mol, 1.4 ml | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3-chloropropyl)-1-(3,4-dimethoxyphenyl)-N-methylcyclohexanemethanamine | ClCCCN(CC1(CCCCC1)C1=CC(=C(C=C1)OC)OC)C | C19H30ClNO2
